### PR TITLE
[Merged by Bors] - feat(FieldTheory/LinearDisjoint): `trace` (resp. `norm`) and `algebraMap` commutes

### PR DESCRIPTION
**Pull request by xroblot**
For  `A` and `B` two linearly disjoint `R`-subalgebras in a commutative algebra `S` and `b` a `R`-basis of `B`, we construct  a `A`-basis of `S = A ⊔ B` from `b` (and a similar construction using a `R`-basis of `A`). Then, we prove in this situation that `trace` commutes with `algebraMap`, that is:
```lean
Algebra.trace A S (algebraMap B S x) = algebraMap R A (Algebra.trace R B x)
```
and a similar result for the norm.

We also add a similar basis construction for `A` and `B` two linearly disjoint intermediate fields with the hypothesis that `A.toSubalgebra ⊔ B.toSubalgebra = ⊤`. This hypothesis is equivalent to `A ⊔ B = ⊤` in many cases (for example, one of the two extensions is algebraic over the base field) but not always. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by acmepjz — COMMENTED** [review]
Looks good to me!

Do you think your results generalize to `Subalgebra.LinearDisjoint`?

**Comment by xroblot** [comment]
> Looks good to me!
> 
> Do you think your results generalize to `Subalgebra.LinearDisjoint`?

Hum, I didn't know that `Subalgebra.LinearDisjoint` existed... Let me see...

The proof uses [basisOfLinearIndependentOfCardEqFinrank](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.html#basisOfLinearIndependentOfCardEqFinrank) so it requires `A` to be a field so I don't think there is a natural way to generalize to `Subalgebra`

Thanks for the review :)

**Comment by acmepjz** [comment]
> The proof uses [basisOfLinearIndependentOfCardEqFinrank](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.html#basisOfLinearIndependentOfCardEqFinrank) so it requires `A` to be a field so I don't think there is a natural way to generalize to `Subalgebra`

Hmm... I don't think the proof needs it... And the finiteness of the basis is also not needed.

If `A` and `B` are linearly disjoint extensions of `F`, and `b` is a `F`-basis of `B`, then it is `A`-linear independent in `E = A ⊔ B` by linear disjointness. On the other hand its `A`-span should map surjectivity to `E`, thanks to the isomorphism [Subalgebra.LinearDisjoint.mulMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/LinearDisjoint.html#Subalgebra.LinearDisjoint.mulMap). Or maybe your result can be deduced directly from this isomorphism? Can you check it?

Maybe let's cc @alreadydone

**Comment by acmepjz** [comment]
> I didn't know that `Subalgebra.LinearDisjoint` existed

In fact we even have [Submodule.LinearDisjoint](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/LinearDisjoint.html#Submodule.LinearDisjoint) and [Submodule.LinearDisjoint.mulMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/LinearDisjoint.html#Submodule.LinearDisjoint.mulMap)

**Comment by xroblot** [comment]
> > The proof uses [basisOfLinearIndependentOfCardEqFinrank](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.html#basisOfLinearIndependentOfCardEqFinrank) so it requires `A` to be a field so I don't think there is a natural way to generalize to `Subalgebra`
> 
> Hmm... I don't think the proof needs it... And the finiteness of the basis is also not needed.
> 
> If `A` and `B` are linearly disjoint extensions of `F`, and `b` is a `F`-basis of `B`, then it is `A`-linear independent in `E = A ⊔ B` by linear disjointness. On the other hand its `A`-span should map surjectivity to `E`, thanks to the isomorphism [Subalgebra.LinearDisjoint.mulMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/LinearDisjoint.html#Subalgebra.LinearDisjoint.mulMap). Or maybe your result can be deduced directly from this isomorphism? Can you check it?
> 
> Maybe let's cc @alreadydone

In fact, [Basis.baseChange](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/TensorProduct/Basis.html#Basis.baseChange) and [Subalgebra.LinearDisjoint.mulMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/LinearDisjoint.html#Subalgebra.LinearDisjoint.mulMap) almost give the construction of the basis but for the fact that the isomorphism is `R`-linear (and we need `B`-linear)

**Comment by xroblot** [comment]
Ok. I have a proof with the following hypothesis: 
```lean
noncomputable example {R S : Type*} [CommRing R] [CommRing S] [Algebra R S]
    {A B : Subalgebra R S} [Module.Flat R A] (H : A.LinearDisjoint B) (H' : A ⊔ B = ⊤)
    {ι : Type*} (b : Basis ι R B) : Basis ι A S 
```
But it's quite ugly. I'll see if I can polish it a bit

**Comment by acmepjz** [comment]
> but for the fact that the isomorphism is `R`-linear (and we need `B`-linear)

Because the mere `A ⊔ B` is not an `B`-algebra so a priori we cannot talk about `B`-linear...

File: Mathlib/RingTheory/LinearDisjoint.lean [hunk 1]
```diff
@@ -243,6 +241,55 @@ protected def mulMap :=
 @[simp]
 theorem val_mulMap_tmul (a : A) (b : B) : (H.mulMap (a ⊗ₜ[R] b) : S) = a.1 * b.1 := rfl
 
+/--
+If `A` and `B` are subalgebras in a commutative algebra `S` over `R`, and if they are
+linearly disjoint and such that `A ⊔ B = S`, then there is the natural isomorphism
+`A ⊗[R] B ≃ₐ[A] S` induced by multiplication in `S`.
+-/
+noncomputable def mulMap_left (H' : A ⊔ B = ⊤) :
```
Comment (acmepjz) [inline Mathlib/RingTheory/LinearDisjoint.lean]: Maybe this should be called `mulMapLeft`? Since it's a `def`, usually its name should not contain `_`.

Same as the next simp lemma.

File: Mathlib/RingTheory/LinearDisjoint.lean [hunk 2]
```diff
@@ -243,6 +241,55 @@ protected def mulMap :=
...
+    AlgEquiv.coe_symm_toLinearEquiv]
+  have : (H.mulMap_left H').symm x = (1 ⊗ₜ[R] x) := (H.mulMap_left H').symm_apply_eq.mpr (by simp)
+  simp [this, Algebra.algebraMap_eq_smul_one]
+
+theorem _root_.Basis.ofLinearDisjoint_leftMulMatrix_eq (H' : A ⊔ B = ⊤) {ι : Type*} [Fintype ι]
+    [DecidableEq ι] (b : Basis ι R B) (x : B) :
+    Algebra.leftMulMatrix (b.ofLinearDisjoint H H') (algebraMap B S x) =
+      RingHom.mapMatrix (algebraMap R A) (Algebra.leftMulMatrix b x) := by
+  ext
+  simp [Algebra.leftMulMatrix_eq_repr_mul, ← b.ofLinearDisjoint_repr_apply H H']
```
Comment (acmepjz) [inline Mathlib/RingTheory/LinearDisjoint.lean]: Non-terminal simp
```suggestion
  simp only [Algebra.leftMulMatrix_eq_repr_mul, Basis.ofLinearDisjoint_apply,
    RingHom.mapMatrix_apply, Matrix.map_apply, SubalgebraClass.coe_algebraMap,
    ← b.ofLinearDisjoint_repr_apply H H', MulMemClass.coe_mul]
```
(untested)

File: Mathlib/RingTheory/LinearDisjoint.lean [hunk 3]
```diff
@@ -243,6 +241,55 @@ protected def mulMap :=
...
+    AlgEquiv.toLinearEquiv_apply, Subalgebra.LinearDisjoint.val_mulMap_left_tmul,
+    OneMemClass.coe_one, one_mul]
+  rfl
+
+theorem _root_.Basis.ofLinearDisjoint_repr_apply (H' : A ⊔ B = ⊤) {ι : Type*} (b : Basis ι R B)
+    (x : B) (i : ι) :
+    algebraMap A S ((b.ofLinearDisjoint H H').repr x i) = algebraMap R S (b.repr x i) := by
+  simp only [Basis.ofLinearDisjoint, Basis.map_repr, LinearEquiv.trans_apply,
+    AlgEquiv.coe_symm_toLinearEquiv]
+  have : (H.mulMap_left H').symm x = (1 ⊗ₜ[R] x) := (H.mulMap_left H').symm_apply_eq.mpr (by simp)
```
Comment (acmepjz) [inline Mathlib/RingTheory/LinearDisjoint.lean]:
```suggestion
  have : (H.mulMap_left H').symm x = 1 ⊗ₜ[R] x := (H.mulMap_left H').symm_apply_eq.mpr (by simp)
```
(untested)

File: Mathlib/RingTheory/LinearDisjoint.lean [hunk 4]
```diff
@@ -243,6 +241,55 @@ protected def mulMap :=
 @[simp]
 theorem val_mulMap_tmul (a : A) (b : B) : (H.mulMap (a ⊗ₜ[R] b) : S) = a.1 * b.1 := rfl
 
+/--
+If `A` and `B` are subalgebras in a commutative algebra `S` over `R`, and if they are
+linearly disjoint and such that `A ⊔ B = S`, then there is the natural isomorphism
+`A ⊗[R] B ≃ₐ[A] S` induced by multiplication in `S`.
+-/
+noncomputable def mulMap_left (H' : A ⊔ B = ⊤) :
+    TensorProduct R A B ≃ₐ[A] S :=
```
Comment (acmepjz) [inline Mathlib/RingTheory/LinearDisjoint.lean]:
```suggestion
    A ⊗[R] B ≃ₐ[A] S :=
```
(untested)

**Comment by xroblot** [comment]
> > but for the fact that the isomorphism is `R`-linear (and we need `B`-linear)
> 
> Because the mere `A ⊔ B` is not an `B`-algebra so a priori we cannot talk about `B`-linear...

Indeed. For the record, the solution I used in the end is to switch the role of `A` and `B` and generalize [Subalgebra.LinearDisjoint.mulMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/LinearDisjoint.html#Subalgebra.LinearDisjoint.mulMap) so that it is `A`-linear

File: Mathlib/RingTheory/LinearDisjoint.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/RingTheory/LinearDisjoint.lean]: You're right. I fixed the name. I am not very happy with this name though...

File: Mathlib/RingTheory/LinearDisjoint.lean (hunk 4 above)
Comment (xroblot) [reply Mathlib/RingTheory/LinearDisjoint.lean]: Hum, that works. Nice!

**Comment by acmepjz** [comment]
I think your `Basis.ofLinearDisjoint` should also have two versions, one is that any `R`-basis of `B` is also a `A`-basis of `S`, dually, another one is any `R`-basis of `A` is also a `B`-basis of `S`.

File: Mathlib/RingTheory/LinearDisjoint.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/RingTheory/LinearDisjoint.lean]: > I am not very happy with this name though...

I don't have better names for it.

PS: Meanwhile `mulMapRight` cannot be defined because `A ⊗[R] B` is not a `B`-algebra unless a scoped instance is used...

**Comment by xroblot** [comment]
> I think your `Basis.ofLinearDisjoint` should also have two versions, one is that any `R`-basis of `B` is also a `A`-basis of `S`, dually, another one is any `R`-basis of `A` is also a `B`-basis of `S`.

I added the `right` version of the basis. I thought it was a bit of an overkill to add a `right` version of `trace_algebraMap_eq_of_basis` and `norm_algebraMap_eq_of_basis ` so I didn't add those.

**Comment by acmepjz** [comment]
> I thought it was a bit of an overkill to add a `right` version of `trace_algebraMap_eq_of_basis` and `norm_algebraMap_eq_of_basis ` so I didn't add those.

That's fine. I think one more line of `rw` will deduce them if they are needed in application.

File: Mathlib/RingTheory/LinearDisjoint.lean [hunk 5]
```diff
@@ -462,24 +536,44 @@ namespace LinearDisjoint
...
+variable {A B : Subalgebra R S}
+
+/--
+If `A` and `B` are subalgebras in a commutative algebra `S` over `R`, and if they are
+linearly disjoint and such that `A ⊔ B = S`, then `trace` and `algebraMap` commutes.
+-/
+theorem trace_algebraMap_eq_of_basis (H : A.LinearDisjoint B) (H' : A ⊔ B = ⊤) {ι : Type*}
+    [Fintype ι] [DecidableEq ι] (b : Basis ι R B) (x : B) :
+    Algebra.trace A S (algebraMap B S x) = algebraMap R A (Algebra.trace R B x) := by
+  simp_rw [Algebra.trace_eq_matrix_trace b,
```
Comment (acmepjz) [inline Mathlib/RingTheory/LinearDisjoint.lean]: Since the consequence of this theorem (`Algebra.trace A S (algebraMap B S x) = algebraMap R A (Algebra.trace R B x)`) does not mention `b` directly, perhaps it's better to change the assumption to `[Module.Finite R B] [Module.Free R B]`?

Comment (xroblot) [reply Mathlib/RingTheory/LinearDisjoint.lean]: Yeah, I was thinking at first of lemmas like [Algebra.trace_trace_of_basis](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Trace/Defs.html#Algebra.trace_trace_of_basis), but you're probably right. I changed that. 

Thanks a lot for the review! The new version is much better :)

Comment (acmepjz) [reply Mathlib/RingTheory/LinearDisjoint.lean]: > I was thinking at first of lemmas like [Algebra.trace_trace_of_basis](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Trace/Defs.html#Algebra.trace_trace_of_basis)

[Algebra.trace_trace](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Trace/Defs.html#Algebra.trace_trace) seems to be the final result, just below `Algebra.trace_trace_of_basis`.

File: Mathlib/FieldTheory/LinearDisjoint.lean [hunk 6]
```diff
@@ -256,6 +255,52 @@ theorem linearIndependent_right (H : A.LinearDisjoint B)
...
+  (linearDisjoint_iff'.mp H).basisOfBasisRight H' b
+
+@[simp]
+theorem basisOfBasisRight_apply (H : A.LinearDisjoint B) (H' : A.toSubalgebra ⊔ B.toSubalgebra = ⊤)
+    {ι : Type*} (b : Basis ι F B) (i : ι) :
+    H.basisOfBasisRight H' b i = algebraMap B E (b i) :=
+  (linearDisjoint_iff'.mp H).basisOfBasisRight_apply H' b i
+
+theorem basisOfBasisRight_repr_apply (H : A.LinearDisjoint B)
+    (H' : A.toSubalgebra ⊔ B.toSubalgebra = ⊤)  {ι : Type*} (b : Basis ι F B) (x : B) (i : ι) :
```
Comment (acmepjz) [inline Mathlib/FieldTheory/LinearDisjoint.lean]:
```suggestion
    (H' : A.toSubalgebra ⊔ B.toSubalgebra = ⊤) {ι : Type*} (b : Basis ι F B) (x : B) (i : ι) :
```

File: Mathlib/FieldTheory/LinearDisjoint.lean [hunk 7]
```diff
@@ -256,6 +255,52 @@ theorem linearIndependent_right (H : A.LinearDisjoint B)
...
+  (linearDisjoint_iff'.mp H).basisOfBasisLeft H' b
+
+@[simp]
+theorem basisOfBasisLeft_apply (H : A.LinearDisjoint B) (H' : A.toSubalgebra ⊔ B.toSubalgebra = ⊤)
+    {ι : Type*} (b : Basis ι F A) (i : ι) :
+    H.basisOfBasisLeft H' b i = algebraMap A E (b i) :=
+  (linearDisjoint_iff'.mp H).basisOfBasisLeft_apply H' b i
+
+theorem basisOfBasisLeft_repr_apply (H : A.LinearDisjoint B)
+    (H' : A.toSubalgebra ⊔ B.toSubalgebra = ⊤)  {ι : Type*} (b : Basis ι F A) (x : A) (i : ι) :
```
Comment (acmepjz) [inline Mathlib/FieldTheory/LinearDisjoint.lean]:
```suggestion
    (H' : A.toSubalgebra ⊔ B.toSubalgebra = ⊤) {ι : Type*} (b : Basis ι F A) (x : A) (i : ι) :
```

**Review by acmepjz — APPROVED** [review]

File: Mathlib/FieldTheory/LinearDisjoint.lean [hunk 8]
```diff
@@ -256,6 +255,52 @@ theorem linearIndependent_right (H : A.LinearDisjoint B)
     {ι : Type*} {b : ι → B} (hb : LinearIndependent F b) : LinearIndependent A (B.val ∘ b) :=
   (linearDisjoint_iff'.1 H).linearIndependent_right_of_flat hb
 
+/--
+If `A` and `B` are linearly disjoint and such that `A.toSubalgebra ⊔ B.toSubalgebra = ⊤`,
+then any `F`-basis of `B` is also a `A`-basis of `E`.
```
Comment (chrisflav) [inline Mathlib/FieldTheory/LinearDisjoint.lean]:
```suggestion
then any `F`-basis of `B` is also an `A`-basis of `E`.
```

File: Mathlib/RingTheory/LinearDisjoint.lean [hunk 9]
```diff
@@ -243,6 +241,74 @@ protected def mulMap :=
 @[simp]
 theorem val_mulMap_tmul (a : A) (b : B) : (H.mulMap (a ⊗ₜ[R] b) : S) = a.1 * b.1 := rfl
 
+/--
+If `A` and `B` are subalgebras in a commutative algebra `S` over `R`, and if they are
+linearly disjoint and such that `A ⊔ B = S`, then there is the natural isomorphism
+`A ⊗[R] B ≃ₐ[A] S` induced by multiplication in `S`.
```
Comment (chrisflav) [inline Mathlib/RingTheory/LinearDisjoint.lean]:
```suggestion
If `A` and `B` are linearly disjoint subalgebras in a commutative algebra `S` over `R`
such that `A ⊔ B = S`, then this is the natural isomorphism
`A ⊗[R] B ≃ₐ[A] S` induced by multiplication in `S`.
```
Similar re-phrasings can be applied elsewhere.

File: Mathlib/RingTheory/LinearDisjoint.lean [hunk 10]
```diff
@@ -243,6 +241,74 @@ protected def mulMap :=
...
+-/
+noncomputable def mulMapLeft (H' : A ⊔ B = ⊤) :
```
Comment (chrisflav) [inline Mathlib/RingTheory/LinearDisjoint.lean]: Given that we have `mulMap`, I would expect `mulMapLeft` to be `A ⊗[R] B ≃ₐ[A] A ⊔ B` (is that version useful on its own?). Is `mulMapLeftOfSupEqTop` too long for your version?

File: Mathlib/RingTheory/LinearDisjoint.lean [hunk 11]
```diff
@@ -243,6 +241,74 @@ protected def mulMap :=
...
+    A ⊗[R] B ≃ₐ[A] S :=
+  (AlgEquiv.ofInjective (Algebra.TensorProduct.productLeftAlgHom
+    (Algebra.ofId A S) B.val) H.injective).trans ((Subalgebra.equivOfEq _ _ (by
+      apply Subalgebra.restrictScalars_injective R
+      rw [restrictScalars_top, ← H']
+      exact mulMap_range A B)).trans Subalgebra.topEquiv)
+
+@[simp]
+theorem val_mulMapLeft_tmul (H' : A ⊔ B = ⊤) (a : A) (b : B) :
```
Comment (chrisflav) [inline Mathlib/RingTheory/LinearDisjoint.lean]:
```suggestion
theorem mulMapLeft_tmul (H' : A ⊔ B = ⊤) (a : A) (b : B) :
```
I don't understand the `val_` prefix here.

File: Mathlib/RingTheory/LinearDisjoint.lean [hunk 12]
```diff
@@ -243,6 +241,74 @@ protected def mulMap :=
...
+    H.mulMapLeft H' (a ⊗ₜ[R] b) = (a : S) * (b : S) := rfl
+
+/--
+If `A` and `B` are subalgebras in a commutative algebra `S` over `R`, and if they are
+linearly disjoint and such that `A ⊔ B = S`, then any `R`-basis of `B` is also a `A`-basis of `S`.
```
Comment (chrisflav) [inline Mathlib/RingTheory/LinearDisjoint.lean]:
```suggestion
linearly disjoint and such that `A ⊔ B = S`, then any `R`-basis of `B` is also an `A`-basis of `S`.
```
(and elsewhere)

File: Mathlib/RingTheory/LinearDisjoint.lean [hunk 13]
```diff
@@ -243,6 +241,74 @@ protected def mulMap :=
...
+  (b.baseChange A).map (H.mulMapLeft H').toLinearEquiv
+
+@[simp]
+theorem basisOfBasisRight_apply (H' : A ⊔ B = ⊤) {ι : Type*} (b : Basis ι R B) (i : ι) :
+    H.basisOfBasisRight H' b i = algebraMap B S (b i) := by
+  simp only [basisOfBasisRight, Basis.map_apply, Basis.baseChange_apply,
+    AlgEquiv.toLinearEquiv_apply, val_mulMapLeft_tmul, OneMemClass.coe_one, one_mul]
+  rfl
+
+theorem basisOfBasisRight_repr_apply (H' : A ⊔ B = ⊤) {ι : Type*} (b : Basis ι R B) (x : B)
```
Comment (chrisflav) [inline Mathlib/RingTheory/LinearDisjoint.lean]:
```suggestion
theorem algebraMap_basisOfBasisRight_repr_apply (H' : A ⊔ B = ⊤) {ι : Type*} (b : Basis ι R B) (x : B)
```

File: Mathlib/RingTheory/LinearDisjoint.lean [hunk 14]
```diff
@@ -243,6 +241,74 @@ protected def mulMap :=
...
+    (i : ι) :
+    algebraMap A S ((H.basisOfBasisRight H' b).repr x i) = algebraMap R S (b.repr x i) := by
+  simp only [basisOfBasisRight, Basis.map_repr, LinearEquiv.trans_apply,
+    AlgEquiv.coe_symm_toLinearEquiv]
+  have : (H.mulMapLeft H').symm x = 1 ⊗ₜ[R] x := (H.mulMapLeft H').symm_apply_eq.mpr (by simp)
+  simp [this, Algebra.algebraMap_eq_smul_one]
+
+theorem basisOfBasisRight_leftMulMatrix_eq (H' : A ⊔ B = ⊤) {ι : Type*} [Fintype ι] [DecidableEq ι]
```
Comment (chrisflav) [inline Mathlib/RingTheory/LinearDisjoint.lean]:
```suggestion
theorem leftMulMatrix_basisOfBasisRight_algebraMap (H' : A ⊔ B = ⊤) {ι : Type*} [Fintype ι] [DecidableEq ι]
```

**Comment by chrisflav** [comment]
Could you please merge `master` again? `lake exe cache get` is broken on this branch due to the CI changes.

File: Mathlib/RingTheory/LinearDisjoint.lean (hunk 10 above)
Comment (acmepjz) [reply Mathlib/RingTheory/LinearDisjoint.lean]: Note that a priori `A ⊔ B` is not an `A`-algebra (only `S` is an `A`-algebra), so `... ≃ₐ[A] A ⊔ B` does not work.

File: Mathlib/RingTheory/LinearDisjoint.lean (hunk 11 above)
Comment (acmepjz) [reply Mathlib/RingTheory/LinearDisjoint.lean]: I think you're right, `val_` here is redundant, as `H.mulMapLeft H' (a ⊗ₜ[R] b)` is already in `S`. The `val_` is correct for the original `mulMap`, though.

File: Mathlib/RingTheory/LinearDisjoint.lean (hunk 10 above)
Comment (xroblot) [reply Mathlib/RingTheory/LinearDisjoint.lean]: > Note that a priori `A ⊔ B` is not an `A`-algebra (only `S` is an `A`-algebra), so `... ≃ₐ[A] A ⊔ B` does not work.

Yes, that's why I formulated the result that way.

Comment (xroblot) [reply Mathlib/RingTheory/LinearDisjoint.lean]: > Is `mulMapLeftOfSupEqTop` too long for your version?

It's a bit long but I can work with it.

File: Mathlib/RingTheory/LinearDisjoint.lean (hunk 11 above)
Comment (xroblot) [reply Mathlib/RingTheory/LinearDisjoint.lean]: I am not sure why I put a `val` here. I'll remove it.

File: Mathlib/RingTheory/LinearDisjoint.lean (hunk 10 above)
Comment (chrisflav) [reply Mathlib/RingTheory/LinearDisjoint.lean]: > Note that a priori `A ⊔ B` is not an `A`-algebra (only `S` is an `A`-algebra), so `... ≃ₐ[A] A ⊔ B` does not work.

Ah, yes, sorry I did not test this because of the cache issue.

File: Mathlib/RingTheory/LinearDisjoint.lean [hunk 15]
```diff
@@ -244,6 +242,75 @@ protected def mulMap :=
...
+noncomputable def basisOfBasisRight (H' : A ⊔ B = ⊤) {ι : Type*} (b : Basis ι R B) :
+    Basis ι A S :=
+  (b.baseChange A).map (H.mulMapLeftOfSupEqTop H').toLinearEquiv
+
+@[simp]
+theorem algebraMap_basisOfBasisRight_apply (H' : A ⊔ B = ⊤) {ι : Type*} (b : Basis ι R B) (i : ι) :
+    H.basisOfBasisRight H' b i = algebraMap B S (b i) := by
+  simp only [basisOfBasisRight, Basis.map_apply, Basis.baseChange_apply,
+    AlgEquiv.toLinearEquiv_apply, mulMapLeftOfSupEqTop_tmul, OneMemClass.coe_one, one_mul]
+  rfl
```
Comment (chrisflav) [inline Mathlib/RingTheory/LinearDisjoint.lean]:
```suggestion
  simp [basisOfBasisRight, Subalgebra.algebraMap_def]
```

File: Mathlib/RingTheory/LinearDisjoint.lean [hunk 16]
```diff
@@ -244,6 +242,75 @@ protected def mulMap :=
...
+
+theorem leftMulMatrix_basisOfBasisRight_algebraMap (H' : A ⊔ B = ⊤) {ι : Type*} [Fintype ι]
+    [DecidableEq ι] (b : Basis ι R B) (x : B) :
+    Algebra.leftMulMatrix (H.basisOfBasisRight H' b) (algebraMap B S x) =
+      RingHom.mapMatrix (algebraMap R A) (Algebra.leftMulMatrix b x) := by
+  ext
+  simp only [Algebra.leftMulMatrix_eq_repr_mul, algebraMap_basisOfBasisRight_apply,
+    RingHom.mapMatrix_apply, Matrix.map_apply, SubalgebraClass.coe_algebraMap,
+    ← H.algebraMap_basisOfBasisRight_repr_apply H', MulMemClass.coe_mul]
+  rfl
```
Comment (chrisflav) [inline Mathlib/RingTheory/LinearDisjoint.lean]:
```suggestion
  simp [Algebra.leftMulMatrix_eq_repr_mul, ← H.algebraMap_basisOfBasisRight_repr_apply H',
    Subalgebra.algebraMap_def]
```

File: Mathlib/RingTheory/LinearDisjoint.lean [hunk 17]
```diff
@@ -244,6 +242,75 @@ protected def mulMap :=
...
+    AlgEquiv.toLinearEquiv_apply, mulMapLeftOfSupEqTop_tmul, OneMemClass.coe_one, one_mul]
+  rfl
+
+theorem algebraMap_basisOfBasisRight_repr_apply (H' : A ⊔ B = ⊤) {ι : Type*} (b : Basis ι R B)
+    (x : B) (i : ι) :
+    algebraMap A S ((H.basisOfBasisRight H' b).repr x i) = algebraMap R S (b.repr x i) := by
+  simp only [basisOfBasisRight, Basis.map_repr, LinearEquiv.trans_apply,
+    AlgEquiv.coe_symm_toLinearEquiv]
+  have : (H.mulMapLeftOfSupEqTop H').symm x = 1 ⊗ₜ[R] x :=
+    (H.mulMapLeftOfSupEqTop H').symm_apply_eq.mpr (by simp)
```
Comment (chrisflav) [inline Mathlib/RingTheory/LinearDisjoint.lean]: Could you please make this a separate lemma?

File: Mathlib/RingTheory/LinearDisjoint.lean [hunk 18]
```diff
@@ -463,24 +530,45 @@ namespace LinearDisjoint
...
 variable [CommRing R] [CommRing S] [Algebra R S]
 
-variable (A B : Subalgebra R S)
+variable {A B : Subalgebra R S}
+
+/--
+If `A` and `B` are subalgebras in a commutative algebra `S` over `R`, and if they are
+linearly disjoint and such that `A ⊔ B = S`, then `trace` and `algebraMap` commutes.
+-/
+theorem trace_algebraMap_eq (H : A.LinearDisjoint B) (H' : A ⊔ B = ⊤) [Module.Free R B]
```
Comment (chrisflav) [inline Mathlib/RingTheory/LinearDisjoint.lean]:
```suggestion
theorem trace_algebraMap (H : A.LinearDisjoint B) (H' : A ⊔ B = ⊤) [Module.Free R B]
```
Sounds better IMO.

File: Mathlib/RingTheory/LinearDisjoint.lean [hunk 19]
```diff
@@ -463,24 +530,45 @@ namespace LinearDisjoint
...
+  simp_rw [Algebra.trace_eq_matrix_trace (Module.Free.chooseBasis R B),
+    Algebra.trace_eq_matrix_trace (H.basisOfBasisRight H' (Module.Free.chooseBasis R B)),
+    Matrix.trace, map_sum, leftMulMatrix_basisOfBasisRight_algebraMap, RingHom.mapMatrix_apply,
+    Matrix.diag_apply, Matrix.map_apply]
+
+/--
+If `A` and `B` are subalgebras in a commutative algebra `S` over `R`, and if they are
+linearly disjoint and such that `A ⊔ B = S`, then `norm` and `algebraMap` commutes.
+-/
+theorem norm_algebraMap_eq (H : A.LinearDisjoint B) (H' : A ⊔ B = ⊤) [Module.Free R B]
```
Comment (chrisflav) [inline Mathlib/RingTheory/LinearDisjoint.lean]:
```suggestion
theorem norm_algebraMap (H : A.LinearDisjoint B) (H' : A ⊔ B = ⊤) [Module.Free R B]
```

File: Mathlib/FieldTheory/LinearDisjoint.lean [hunk 20]
```diff
@@ -256,6 +255,52 @@ theorem linearIndependent_right (H : A.LinearDisjoint B)
...
+    Basis ι A E :=
+  (linearDisjoint_iff'.mp H).basisOfBasisRight H' b
+
+@[simp]
+theorem basisOfBasisRight_apply (H : A.LinearDisjoint B) (H' : A.toSubalgebra ⊔ B.toSubalgebra = ⊤)
+    {ι : Type*} (b : Basis ι F B) (i : ι) :
+    H.basisOfBasisRight H' b i = algebraMap B E (b i) :=
+  (linearDisjoint_iff'.mp H).algebraMap_basisOfBasisRight_apply H' b i
+
+theorem basisOfBasisRight_repr_apply (H : A.LinearDisjoint B)
```
Comment (chrisflav) [inline Mathlib/FieldTheory/LinearDisjoint.lean]:
```suggestion
theorem algebraMap_basisOfBasisRight_repr_apply (H : A.LinearDisjoint B)
```

File: Mathlib/FieldTheory/LinearDisjoint.lean [hunk 21]
```diff
@@ -634,6 +679,26 @@ theorem algEquiv_of_isAlgebraic (H : A.LinearDisjoint L)
...
 
+/--
+If `A` and `B` are linearly disjoint, then `trace` and `algebraMap` commutes.
+-/
+theorem trace_algebraMap_eq [FiniteDimensional F E] (h₁ : A.LinearDisjoint B) (h₂ : A ⊔ B = ⊤)
+    (x : B) :
+    Algebra.trace A E (algebraMap B E x) = algebraMap F A (Algebra.trace F B x) := by
+  rw [linearDisjoint_iff'] at h₁
+  refine h₁.trace_algebraMap_eq ?_ x
+  simpa [sup_toSubalgebra_of_isAlgebraic_right] using congr_arg IntermediateField.toSubalgebra h₂
```
Comment (chrisflav) [inline Mathlib/FieldTheory/LinearDisjoint.lean]:
```suggestion
  simpa [sup_toSubalgebra_of_isAlgebraic_right] using congr_arg toSubalgebra h₂
```

File: Mathlib/FieldTheory/LinearDisjoint.lean [hunk 22]
```diff
@@ -634,6 +679,26 @@ theorem algEquiv_of_isAlgebraic (H : A.LinearDisjoint L)
...
+
+/--
+If `A` and `B` are linearly disjoint, then `norm` and `algebraMap` commutes.
+-/
+theorem norm_algebraMap_eq [FiniteDimensional F E] (h₁ : A.LinearDisjoint B) (h₂ : A ⊔ B = ⊤)
+    (x : B) :
+    Algebra.norm A (algebraMap B E x) = algebraMap F A (Algebra.norm F x) := by
+  rw [linearDisjoint_iff'] at h₁
+  refine h₁.norm_algebraMap_eq ?_  x
+  simpa [sup_toSubalgebra_of_isAlgebraic_right] using congr_arg IntermediateField.toSubalgebra h₂
```
Comment (chrisflav) [inline Mathlib/FieldTheory/LinearDisjoint.lean]:
```suggestion
  simpa [sup_toSubalgebra_of_isAlgebraic_right] using congr_arg toSubalgebra h₂
```

**Review by chrisflav — APPROVED** [review]
Thanks!

maintainer merge

**Comment by xroblot** [comment]
@chrisflav Thanks for the review!

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
